US04889912
Maleic anhydride (79.6 g, 0.81 mole) was added to a solution of distilled 3-aminophenylacetylene (95.1 g, 0.81 mole) dissolved in 500 mL of dry N,N'-dimethylacetamide (DMAc) at 5°-10° C. After addition, another 300 mL of DMAc was added and the mixture stirred at room temperature for two hours. Nickel acetate tetrahydrate (0.8 g) and acetic anhydride (300 mL) were added to the reaction mixture and stirring was continued for 12 hours at room temperature to affect cyclodehydration. The crude product was isolated by precipitation in water and recrystallized from methanol to provide N-(3-ethynylphenyl)maleimide (128 g, 80% yield) as a yellow crystalline solid, mp 129°-131° C. Elemental analysis calculated for C12H7NO2 : C, 73.09%; H, 3.58%; N, 7.10%. Found: C, 72.94%; H, 3.61%; N, 7.04%.

reactant | Maleic anhydride | 0.81 mole, 79.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 3-aminophenylacetylene | 0.81 mole, 95.1 g | NC=1C=C(C=CC1)C#C | C8H7N
reactant | acetic anhydride | 300 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
catalyst | Nickel acetate tetrahydrate | 0.8 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | N-(3-ethynylphenyl)maleimide | 128 g, 80% yield | C(#C)C=1C=C(C=CC1)N1C(C=CC1=O)=O | C12H7NO2
